US06982260B1
1,5-Dimethoxy-cyclohexa-1,4-diene
A solution containing 1,3-dimethoxybenzene (10 g), dry THF (15 mL) and tBuOH (15 mL) was added to distilled ammonia (ca 250 mL). To the reaction mixture was added lithium wire (1.5 g) in small portions, and the deep blue colored solution was stirred for 3 hours. The reaction mixture was decolorized by dropwise addition of methanol. Ammonia was evaporated at room temperature. To the residue, ammonium chloride solution was added, then the product was extracted with hexane (3×120 mL). The combined extracts were washed with water and dried over anhydrous sodium sulfate. Removal of the solvent under reduced pressure gave the title compound as a clear liquid (9.5 g). 1H NMR (CDCl3): δ 2.7–2.9 (m, 4H, 2×CH2), 3.58 (s, 6H, 2×OCH3), 4.66 (t, 2H, olefinic).

reactant | 1,3-dimethoxybenzene | 10 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | tBuOH | 15 mL | CC(C)(C)O | C4H10O
product | 1,5-Dimethoxy-cyclohexa-1,4-diene | 9.5 g | COC1=CCC=C(C1)OC | C8H12O2
